US07825244B2
4-[7-(2-Morpholin-4-yl-2-oxo-ethoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of morpholine (107.4 mg, 1.23 mmol) and methyl glycolate (77.5 mg, 860 μmol) was stirred at 150° C. for 3 hr. The resulting homogeneous clear amber oil was taken up in toluene (2×2 mL) with repeated rotary evaporation to remove methanol. The residue was taken up in dry THF (860 μL) and KOtBu was added (113 mg, 1.01 mmol). The mixture was stirred at 100° C. for 5-10 min until a brown slurry formed with no visible chunks. The mixture was then allowed to cool to rt, 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (302 mg, 912 μmol), as prepared in Example 12b, was added, and the resulting nearly homogeneous reddish-brown solution was stirred at rt for 1 hr, at which point the reaction solidified into a paste. The reaction was taken up in DCM (4 mL) and washed with 1M NaHCO3 (1×2 mL) and IM NaH2PO4 (1×2 mL), and the organic layer was dried (Na2SO4) and concentrated. The residue was purified by silica flash chromatography (9:1 DCM/acetone→8:2→8:2 DCM/acetone/3% DMEA eluent) to provide the title compound as a pale yellow oil (94.8 mg, 24% over two steps). LC/MS (ESI): calcd mass 456.2, found 457.3 (MH)+.

reactant | morpholine | 1.23 mmol, 107.4 mg | N1CCOCC1 | C4H9NO
reactant | methyl glycolate | 860 μmol, 77.5 mg | C(CO)(=O)OC | C3H6O3
reactant | 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 912 μmol, 302 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)F | C18H22FN3O2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 4-[7-(2-Morpholin-4-yl-2-oxo-ethoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 94.8 mg, 24% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCC(=O)N1CCOCC1 | C24H32N4O5
